US05177075
A mixture of 35.1 g (0.29 mol) of o-tolualdehyde, 47.6 g (0.46 mol) of acetic anhydride, and 18 g (0.174 mol) of fused and pulverized potassium acetate was heated at 155°-160° for 15 minutes and then at 165°-170° for 12 hours. The mixture was diluted with 1 liter of ice water and steam distilled to remove excess aldehyde. On cooling, a yellow solid formed. The solid was collected, washed with water, dissolved in chloroform, treated with charcoal, and filtered. The filtrate was concentrated and the residue was recrystallized from ethanol/ether to give 16.5 g (35%) of trans-2-methylcinnamic acid; mp 173°-175°.

reactant | o-tolualdehyde | 0.29 mol, 35.1 g | C=1(C(=CC=CC1)C=O)C | C8H8O
reactant | acetic anhydride | 0.46 mol, 47.6 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | potassium acetate | C(C)(=O)[O-].[K+]
product | trans-2-methylcinnamic acid | 16.5 g, 35% | CC1=C(/C=C/C(=O)O)C=CC=C1 | C10H10O2
